US08420816B2
1-((R)-2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoyl)pyrrolidine-3-carbonitrile
To an 8 mL scintillation vial equipped for stirring was added (R)-2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid (10 mg, 0.032 mmol). THF (0.5 mL), pyrrolidine-3-carbonitrile (3.12 mg, 0.032 mmol) and HATU (14.83 mg, 0.039 mmol) were added and the solution was stirred at 25° C. for 1 h. The reaction mixture was purified via preparative mass trigger LC-MS (AcCN/H2O, 5-50%). The fractions were collected, concentrated, and dried in vacuo to afford the title compound as a yellow oil (1.3 mg, 10.4%). 1H NMR (400 MHz, CD3OD) δ 0.92 (s, 3 H) 1.00-1.12 (m, 3 H) 2.27-2.35 (m, 1 H) 2.56 (d, J=6.57 Hz, 1 H) 3.40 (d, J=6.82 Hz, 1 H) 3.51-3.68 (m, 1 H) 3.74 (d, J=6.57 Hz, 1 H) 3.79-3.94 (m, 1 H) 3.96-4.03 (m, 1 H) 4.88-5.00 (m, 2 H) 5.03-5.23 (m, 1 H) 5.39-5.48 (m, 1 H) 7.87 (d, J=12.63 Hz, 1 H) 8.21-8.30 (m, 1 H). [M+H] calc'd for C19H20ClN5O2, 386; found, 386.4.

reactant | (R)-2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid | 0.032 mmol, 10 mg | ClC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)O)C(C)C)=O)=CN2 | C14H14ClN3O3
reactant | pyrrolidine-3-carbonitrile | 0.032 mmol, 3.12 mg | N1CC(CC1)C#N | C5H8N2
reactant | HATU | 0.039 mmol, 14.83 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 1-((R)-2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoyl)pyrrolidine-3-carbonitrile | 1.3 mg, 10.4% | ClC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)N1CC(CC1)C#N)C(C)C)=O)=CN2 | C19H20ClN5O2
